US06127541
4-(3-Hydroxymethylpiperidino)benzonitrile
According to a similar manner to that in Reference Example 3, the title compound was synthesized from 4-fluorobenzonitrile and 3-hydroxymethylpiperidine.

reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 3-hydroxymethylpiperidine | OCC1CNCCC1 | C6H13NO
product | 4-(3-Hydroxymethylpiperidino)benzonitrile | OCC1CN(CCC1)C1=CC=C(C#N)C=C1 | C13H16N2O
